US05462954
N,N-Dimethyl-4-(3-hydroxyphenyl)butanamide
A mixture of 3.7 g of methyl 4-(3-hydroxyphenyl)pentanoate and 40 mL of 40% dimethylamine in water was stirred for 25 hours. The mixture was acidified with 5N hydrochloric acid and extracted with dichloromethane. The organic phase was washed with a saturated sodium chloride solution, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with ethyl ether/methanol to provide 1.62 g (41%) of the title intermediate. NMR

reactant | methyl 4-(3-hydroxyphenyl)pentanoate | 3.7 g | OC=1C=C(C=CC1)C(CCC(=O)OC)C | C12H16O3
reactant | dimethylamine | 40 mL | CNC | C2H7N
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | water | O | H2O
product | N,N-Dimethyl-4-(3-hydroxyphenyl)butanamide | 1.62 g, 41% | CN(C(CCCC1=CC(=CC=C1)O)=O)C | C12H17NO2
